US06927221B2
1-(1-Ethylpropyl)-6-mesityl-4,8-dimethyl-2,3-dihydro-1H-imidazo[1,5-a]pyrrolo[3,2-e]pyrimidine
A solution of 4-chloro-3-(2-chloroethyl)-8-mesityl-2,6-dimethylimidazo[1,5-a]pyrimidine (139 mg, 0.38 mmol) in 3-aminopentane (10 mL) was heated under reflux for five days. After overnight, the residue was purified by dry pack silica gel column chromatography (25-40% ethyl acetate/hexane), to give the title compound (69 mg) as pale yellow crystals.

reactant | 4-chloro-3-(2-chloroethyl)-8-mesityl-2,6-dimethylimidazo[1,5-a]pyrimidine | 0.38 mmol, 139 mg | ClC1=C(C(=NC=2N1C(=NC2C2=C(C=C(C=C2C)C)C)C)C)CCCl | C19H21Cl2N3
reactant | 3-aminopentane | 10 mL | NC(CC)CC | C5H13N
product | 1-(1-Ethylpropyl)-6-mesityl-4,8-dimethyl-2,3-dihydro-1H-imidazo[1,5-a]pyrrolo[3,2-e]pyrimidine | 69 mg | C(C)C(CC)N1CCC=2C(=NC=3N(C21)C(=NC3C3=C(C=C(C=C3C)C)C)C)C | C24H32N4
